US04029661
5-methyluracil (1.00 g) in trifluoroacetic acid (10 ml) was treated with gaseous fluorine-nitrogen mixture. The reaction began at an initial temperature of 0° C. and during the fluorination the reaction temperature was raised to 14° C. and the reaction continued until completion for 120 minutes. The mole ratio of fluorine to 5-methyl-uracil was 2.56. The solvent was evaporated at about 50° C. under reduced pressure leaving a brown solid, which upon extracting with acetone gave 5-fluoro-5-methyluracil (0.21g) whose structure was confirmed by NMR analysis.

reactant | 5-methyluracil | 1.00 g | CC=1C(NC(NC1)=O)=O | C5H6N2O2
reactant | fluorine nitrogen | FF.N#N
reactant | fluorine | FF | F2
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-fluoro-5-methyluracil | 0.21g | FC1(C(NC(N=C1)=O)=O)C | C5H5FN2O2
